US07632832B2
4-(2-Oxo-2,3-dihydro-1H-imidazol-1-yl)-N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl] piperidine-1-carboxamide
(3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl) 1,3-dihydro-2H-1,4-benzodiazepin-2-one (199 mg, 0.598 mmol) (Y.-J. Shi et al., Tetrahedron, 1999, 55, 909-918) and triethylamine (83 uL, 0.598 mmol) in tetrahydrofuran (5 mL) were added to a solution of p-nitrophenylchloroformate (100 mg, 0.598 mmol) in tetrahydrofuran (15 mL) at 0 oC. After 1 h, 1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one (100 mg, 0.598 mmol) in tetrahydrofuran (9 mL) and dimethylforamide (1 mL) were added and stirred at 0 oC for 10 min and then warned to room temperature. After 16 h, the reaction was concentrated and the residue dissolved in ethyl acetate, washed with 1 N sodium hydroxide solution (3×), water, brine, and dried over magnesium sulfate. Purification by silica gel chromatography (100% dichloromethane→10% methanol/dichloromethane) gave 70 mg of the titled compound. MS 527.5 (M+1).

reactant | (3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl) 1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.598 mmol, 199 mg | N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C17H14F3N3O
reactant | triethylamine | 0.598 mmol, 83 uL | C(C)N(CC)CC | C6H15N
reactant | 1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one | 0.598 mmol, 100 mg | N1CCC(CC1)N1C(NC=C1)=O | C8H13N3O
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
solvent | dimethylforamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(2-Oxo-2,3-dihydro-1H-imidazol-1-yl)-N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl] piperidine-1-carboxamide | 70 mg | O=C1N(C=CN1)C1CCN(CC1)C(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C26H25F3N6O3
